US04294960
A solution of 7-[2-(2-formamidothiazol-4-yl)-2-ethoxycarbonylmethoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.35 g.), conc.hydrochloric acid (0.39 g.), ethanol (5.3 ml.) and tetrahydrofuran (8 ml.) was stirred at room temperature for 4.5 hours. After the resultant solution was concentrated in vacuo, the residue was dissolved in an aqueous solution of sodium bicarbonate, treated with activated charcoal and filtered. The filtrate was adjusted to pH 3.5 with 10% hydrochloric acid under ice cooling. The precipitates were collected by filtration, washed with water and dried to give 7-[2-(2-aminothiazol-4-yl)-2-ethoxycarbonylmethoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.1 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-ethoxycarbonylmethoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.35 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC(=O)OCC | C17H17N5O8S2
reactant | hydrochloric acid | 0.39 g | Cl | ClH
reactant | ethanol | 5.3 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-aminothiazol-4-yl)-2-ethoxycarbonylmethoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.1 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC(=O)OCC | C16H17N5O7S2
